US08212050B2
3.76 g of 2,4-dichlorophenyl isocyanate was dissolved in 100 ml of benzene and 1.44 g of pyrrolidine was added to this resulting solution and reacted for 8 hours at room temperature. After completing the reaction, benzene was evaporated under reduced pressure to obtain 5.19 g of N-(2,4-dichlorophenyl)pyrrolidine-1-carboxamide. 0.50 g of the obtained N-(2,4-dichlorophenyl)pyrrolidine-1-carboxamide was dissolved in the mixed solvent composed of 10 ml of acetonitrile and 0.4 ml of carbon tetrachloride and 0.69 g of triphenylphosphine was then added to this resulting solution and the entire mixture was stirred for 1 hour at room temperature. 0.55 g of cuprous cyanide was added to this reaction solution and the entire mixture was refluxed for 2.5 hours. After cooling the reaction solution, insolubles were removed by filtration and the concentrate obtained by evaporating the filtrate under reduced pressure was purified by silica gel column chromatography to obtain 0.39 g of N′-(2,4-dichlorophenyl)-N,N-(butane-1,4-di-yl)cyanoformamidine (1-1) (yield: 72%).

reactant | 2,4-dichlorophenyl isocyanate | 3.76 g | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
reactant | pyrrolidine | 1.44 g | N1CCCC1 | C4H9N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-(2,4-dichlorophenyl)pyrrolidine-1-carboxamide | 5.19 g | ClC1=C(C=CC(=C1)Cl)NC(=O)N1CCCC1 | C11H12Cl2N2O
